US08110579B2
Add, one after another, 1.13 g (14.7 mmol) of ammonium acetate, 40.4 mL (500 mmol) of pyridine and 31.2 g (367 mmol) of 2-cyanoacetic acid to a solution of 61 g (367 mmol) of 2,6-dimethoxybenzaldehyde in 360 mL of toluene. Reflux the reaction mixture for 15 h, distilling the toluene-water azeotrope in Dean-Stark apparatus. Take up the solution in 500 mL toluene and 40 mL pyridine and reflux again for 48 h in the Dean-Stark apparatus. After concentration under reduced pressure, take up the residue in 800 mL of dichloromethane (DCM) and wash successively with 1 L of 1N HCl aqueous solution, 500 mL of saturated aqueous solution of sodium carbonate (Na2CO3) and 1 L of water. After drying over sodium sulphate (Na2SO4) and concentration under reduced pressure, we obtain 62 g of (2E)-3-(2,6-dimethoxyphenyl)acrylonitrile in the form of brown oil, which is used “as is” in the next stage.

reactant | pyridine | 500 mmol, 40.4 mL | N1=CC=CC=C1 | C5H5N
reactant | 2-cyanoacetic acid | 367 mmol, 31.2 g | C(#N)CC(=O)O | C3H3NO2
reactant | 2,6-dimethoxybenzaldehyde | 367 mmol, 61 g | COC1=C(C=O)C(=CC=C1)OC | C9H10O3
solvent | toluene | 360 mL | C1(=CC=CC=C1)C | C7H8
catalyst | ammonium acetate | 14.7 mmol, 1.13 g | C(C)(=O)[O-].[NH4+]
product | (2E)-3-(2,6-dimethoxyphenyl)acrylonitrile | 62 g, Yield=89% | COC1=C(C(=CC=C1)OC)/C=C/C#N | C11H11NO2
